US03936470
A mixture of 6.8 parts of imidazole, 8.5 parts of B -2-(bromomethyl)-4-(p-chlorophenoxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane, 2 parts of sodium iodide and 100 parts of dimethylformamide is stirred and refluxed for 36 hours. The reaction mixture is allowed to cool to room temperature and poured into water. The product is extracted twice with benzene. The combined organic layers are washed twice with water, dried and the solvent is removed in vacuo. The residue is purified by column-chromatography over silica gel using chloroform as eluent. The pure fractions are collected and the eluent is evaporated. The residue of B-1-[4-(p-chlorophenoxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolan-2-ylmethyl]-imidazole is converted into the oxalate salt in 4-methyl-2-pentanone: upon the addition of diisopropylether, the salt is precipitated. It is filtered off and crystallized from 4-methyl-2-pentanone, yielding 3.1 parts of trans-1-[4-p-chlorophenoxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolan-2-ylmethyl]-imidazole sesquioxalate; mp. 101°C.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 2-(bromomethyl)-4-(p-chlorophenoxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H14BrCl3O3
reactant | sodium iodide | [I-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
product | imidazole sesquioxalate | C(C(=O)O)(=O)O.N1C=NC=C1.C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1C=NC=C1 | InChI=1S/2C3H4N2.3C2H2O4/c2*1-2-5-3-4-1;3*3-1(4)2(5)6/h2*1-3H,(H,4,5);3*(H,3,4)(H,5,6)
